US09062044B2
Step B: (1S,6R)-tert-Butyl 8-(2-(3-methyl-1,2,4-oxadiazol-5-yl)benzoyl)-3,8-diazabicyclo[4.2.0]octane-3-carboxylate.
To a solution of 3,8-diaza-bicyclo[4.2.0]octane-3-carboxylic acid tert-butyl ester (550 mg, 2.59 mmol) in CH2Cl2 (9 mL) was added 2-(3-methyl-1,2,4-oxadiazol-5-yl)benzoic acid (545 mg, 2.59 mmol) followed by EDCl (745 mg, 3.89 mmol), HOBt (525 mg, 3.89 mmol) and TEA (0.72 mL, 5.18 mmol). The mixture was stirred for 14 h at room temperature and then washed (2×) with saturated aqueous NH4Cl solution. The organic layer was dried over Na2SO4, filtered and concentrated in vacuo. Chromatography (Hex to 100% EtOAc/Hex) afforded the desired product as a colorless foam (665 mg, 61%). MS (ESI): mass calculated for C21H26N4O4, 398.20, m/z found 399.0 [M+1]+. 1H NMR (500 MHz, CDCl3): 8.14-8.05 (m, 1H), 7.67-7.52 (m, 2H), 7.45-7.36 (m, 1H), 4.39-4.21 (m, 2H), 4.04-3.96 (m, 1H), 3.90-3.83 (m, 0H), 3.77-3.43 (m, 3H), 2.96-2.76 (m, 2H), 2.47 (s, 3H), 2.03-1.72 (m, 2H), 1.54-1.36 (m, 9H).

reactant | 3,8-diaza-bicyclo[4.2.0]octane-3-carboxylic acid tert-butyl ester | 2.59 mmol, 550 mg | C(C)(C)(C)OC(=O)N1CC2NCC2CC1 | C11H20N2O2
reactant | 2-(3-methyl-1,2,4-oxadiazol-5-yl)benzoic acid | 2.59 mmol, 545 mg | CC1=NOC(=N1)C1=C(C(=O)O)C=CC=C1 | C10H8N2O3
reactant | EDCl | 3.89 mmol, 745 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 3.89 mmol, 525 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | CH2Cl2 | 9 mL | C(Cl)Cl | CH2Cl2
product | (1S,6R)-tert-Butyl 8-(2-(3-methyl-1,2,4-oxadiazol-5-yl)benzoyl)-3,8-diazabicyclo[4.2.0]octane-3-carboxylate | 665 mg, 61% | CC1=NOC(=N1)C1=C(C(=O)N2C[C@H]3CCN(C[C@@H]23)C(=O)OC(C)(C)C)C=CC=C1 | C21H26N4O4
